US08748606B2
Synthesis of N-{3-[6-(3-bromophenylamino)-pyrimidin-4-ylamino]-phenyl}-2-propenamide (I-1)
A solution of 3-[6-(3-bromophenylamino)-pyrimidin-4-ylamino]phenylamine (250 mg, 0.7 mmol) and triethylamine (180 mg, 1.75 mmol) in 5 mL of THF was stirred at RT. Acryloyl chloride (80 mg, 0.9 mmol) was added into the reaction mixture and it was stirred at RT for 1 h. The solvent was removed by vacuum evaporation and the crude product was purified by flash chromatography on silica gel with EtOAc/DCM solvent system to afford 115 mg (40% yield) of the title compound as a light colored solid. MS (m/z): MH+=410, 412. 1H NMR (DMSO): 10.15 (s, 1H), 9.36 (s, 1H), 9.28 (s, 1H), 8.34 (s, 1H), 8.02 (s, 1H), 8.00 (s, 1H), 7.51-7.11 (m, 5H), 6.47 (dd, 1H, J=10.1 Hz, J2=17.0 Hz), 6.27 (dd, 1H, J=1.9 Hz, J2=17.0 Hz), 6.20 (s, 1H), 5.76 (dd, 1H, J=10.1 Hz, J2=1.9 Hz) ppm.

reactant | 3-[6-(3-bromophenylamino)-pyrimidin-4-ylamino]phenylamine | 0.7 mmol, 250 mg | BrC=1C=C(C=CC1)NC1=CC(=NC=N1)NC=1C=C(C=CC1)N | C16H14BrN5
reactant | triethylamine | 1.75 mmol, 180 mg | C(C)N(CC)CC | C6H15N
reactant | Acryloyl chloride | 0.9 mmol, 80 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-{3-[6-(3-bromophenylamino)-pyrimidin-4-ylamino]-phenyl}-2-propenamide | 115 mg, 40% yield | BrC=1C=C(C=CC1)NC1=CC(=NC=N1)NC=1C=C(C=CC1)NC(C=C)=O | C19H16BrN5O
